US08895313B2
4-(6-Methylimidazo[1,2-a]pyridin-2-yl)aniline
Prepared as described in the Nitro Reduction section using 6-methyl-2-(4-nitrophenyl)imidazo[1,2-a]pyridine (0.423 g, 1.67 mmol) and tin (II) chloride dihydrate (1.89 g, 8.36 mmol) in EtOH (45 ml) to give the title compound (0.216 g, 58%) as a pale orange solid, after work-up and flash chromatography (EtOAc).

reactant | 6-methyl-2-(4-nitrophenyl)imidazo[1,2-a]pyridine | 1.67 mmol, 0.423 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)[N+](=O)[O-] | C14H11N3O2
reactant | tin (II) chloride dihydrate | 8.36 mmol, 1.89 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 45 ml | CCO | C2H6O
product | 4-(6-Methylimidazo[1,2-a]pyridin-2-yl)aniline | 0.216 g, 58% | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
